* source TPS55289
C_C7         N16778675 SW1  0.1u  TC=0,0 
C_C11         0 DITH  10n  TC=0,0 
C_C9         0 N16774071  4.7n  TC=0,0 
V_V4         MODE 0 {3.3*FPWM}
C_C5         0 VCC  4.7u  TC=0,0 
L_L1         SW1 SW2  4.7uH  
V_V5         EN 0  
+PULSE 0 3 10u 1u 0 1 10
R_R7         N167740991 0  150k TC=0,0 
R_R2         ISN ISP  10m TC=0,0 
C_C8         N16778686 SW2  0.1u  TC=0,0 
R_R8         ISN 0  {Vout/Iout} TC=0,0 
C_C3         0 ISP  120u IC=0 TC=0,0 
R_R5         COMP N16774071  27.4k TC=0,0 
C_C10         0 COMP  100p  TC=0,0 
R_R3         ISN FB  {Rup} TC=0,0 
R_R4         FB 0  {Rup/(Vout/1.2-1)} TC=0,0 
C_C1         0 VIN  22u  TC=0,0 
R_R1         0 FSW  50k TC=0,0 
V_V1         VIN 0 {Vin}
X_U5         0 N16778675 N16778686 N167740991 COMP DITH EN 0 FB FSW ISN ISP
+  MODE 0 0 0 SW1 SW2 VCC VIN ISP ASSIGNED_TOP_LEVEL PARAMS:  FAST_STARTUP=1000
.PARAM  vin=5 iout=1 fpwm=1 ss=0 cout=0.75 vout=9 rup=100k
