* ADC34444
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: ADC3444
* Date: 09/20/14
* Model Type: All In One
* Simulator: Cadence Allegro 
* Simulator Version:  16.2.0.p001
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SBAS670 –JULY 2014
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web 
*
*****************************************************************************
* Notes: 
* This is a transient model of the ADC34J45 analog inputs.
* 
*****************************************************************************
.SUBCKT ADC3444 INP INN VCM CLKP CLKN GRND
R_Resr5         GRND N43167  47  
R_Resr6         N43187 N2P  10k  
X_S4    N44169 GRND CLK GRND ADC3444_SCH_S4 
R_R4         N43351 N43303  20  
R_Resr4         N43345 GRND  47  
R_Resr7         N2N N43187  10k  
V_V2         N43133 GRND 5Vdc
R_R5         GRND N43311  100  
C_Cpad         N43151 N1P  1pF   
R_RSW1         N1P N2P  10  
R_R10         N43133 CLK  5k  
C_Cpad1         N1N N43279  1pF   
R_RSW8         N1N N2N  10  
R_R6         GRND N43335  100  
E_E1         N44169 GRND N43351 N43381 1
C_Cpad7         N43167 N2P  420fF   
L_L1         INP N1P  2nH  
R_R1         GRND VCM  10k 
V_VCM        VCM GRND 0.95V 
C_Ceq1         N3N N4N  3.75pF   
R_R7         N43327 N43381  20  
X_S1    CLK GRND N3P N2P ADC3444_SCH_S1 
L_L2         INN N1N  2nH  
R_Resr         GRND N43151  200  
R_R8         N43393 N43351  5k  
C_C4         GRND N43351  2p   
X_S2    CLK GRND N2N N3N ADC3444_SCH_S2 
C_Cpad5         N2N GRND  1.734pF   
R_Resr1         N43279 GRND  200  
C_C5         N43381 GRND  2p   
R_R9         N43381 N43393  5k  
C_Cpad4         GRND N2P  1.734pF   
R_Resr9         GRND N1P  5k  
X_S3    CLK GRND N4N N4P ADC3444_SCH_S3 
C_C1         N43311 N43303  1p   
C_Cpad8         GRND N3P  600fF   
R_Resr8         N1N GRND  5k  
R_R2         N4N 0  1e9  
C_C2         N43335 N43327  1p   
C_Cpad6         N2N N43345  420fF   
C_C3         GRND N43393  2p   
R_R3         N4P 0  1e9  
C_Ceq         N3P N4P  3.75pF   
L_L3         CLKP N43303  2nH  
V_V1         N43393 GRND 1.4Vdc
C_Cpad9         N3N GRND  600fF   
L_L4         CLKN N43327  2nH  
.ENDS

.subckt ADC3444_SCH_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1.0V
.ends ADC3444_SCH_S4

.subckt ADC3444_SCH_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=4.6 Voff=0.0V Von=1.0V
.ends ADC3444_SCH_S1

.subckt ADC3444_SCH_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e6 Ron=4.6 Voff=0.0V Von=1.0V
.ends ADC3444_SCH_S2

.subckt ADC3444_SCH_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1e6 Ron=17.0 Voff=0.0V Von=1.0V
.ends ADC3444_SCH_S3
